US07459562B2
C) 2-(4-(2-Amino-4-(4-amino-2-fluorophenoxy)pyridin-3-yl)phenyl)acetamide
A mixture of 2-(4-(2-amino-4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)phenyl)acetamide (32 mg, 0.086 mmol), DMF (1 mL), EtOH (1 mL) and H2O (1 mL) was treated with Fe powder (67 mg, 1.2 mmol), and NH4Cl (128 mg, 2.4 mmol) and the mixture heated at 100° C. for 20 min. The mixture was filtered through Celite®, the pH of the filtrate adjusted to pH 7 using phosphate buffer and then the mixture was extracted with EtOAc. The organic extract was dried (MgSO4) and concentrated to give the desired product (20 mg, 67%) as a yellow-brown solid. MS(ESI+): m/z 353.32 (M+H)+.

reactant | 2-(4-(2-amino-4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)phenyl)acetamide | 0.086 mmol, 32 mg | NC1=NC=CC(=C1C1=CC=C(C=C1)CC(=O)N)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C19H15FN4O4
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | EtOH | 1 mL | CCO | C2H6O
reactant | NH4Cl | 2.4 mmol, 128 mg | [NH4+].[Cl-]
catalyst | Fe | 1.2 mmol, 67 mg | [Fe] | Fe
solvent | H2O | 1 mL | O | H2O
product | 2-(4-(2-Amino-4-(4-amino-2-fluorophenoxy)pyridin-3-yl)phenyl)acetamide | 20 mg, 67% | NC1=NC=CC(=C1C1=CC=C(C=C1)CC(=O)N)OC1=C(C=C(C=C1)N)F | C19H17FN4O2
